US07521466B2
Preparation of 5-[4-(4-(2-(2-amino-3-imidazol-4-ylpropanamido)-2-methoxy carbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione dihydrochloride
A solution of 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride (4 g, 9.16 mmol) and 2-N-t-butoxycarbonylamino-4-imidazole propionic acid (3.2 g, 12.82 mmol) in N,N-dimethylformamide (50 ml) was stirred for 1 h at −10° C. N,N′-Dicyclohexylcarbodiimide (3.01 g, 14.65 mmol) was added to this solution and stirred for 10 h at ambient temperature. Water (600 ml) was added to the reaction mixture, stirred for 20 minutes and extracted with ethyl acetate (3×300 ml). Ethyl acetate extract was washed with water (100 ml), dried over anhydrous sodium sulfate and concentrated to give the title compound, (5 g, yield 86%).

reactant | 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride | 9.16 mmol, 4 g | Cl.NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC
reactant | N,N′-Dicyclohexylcarbodiimide | 14.65 mmol, 3.01 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Water | 600 ml | O | H2O
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-[4-(4-(2-(2-amino-3-imidazol-4-ylpropanamido)-2-methoxy carbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione dihydrochloride | 5 g, yield 86% | Cl.Cl.NC(C(=O)NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC)CC=1N=CNC1 | InChI=1S/C26H27N5O6S.2ClH/c1-36-25(34)21(30-23(32)20(27)12-17-13-28-14-29-17)10-15-2-6-18(7-3-15)37-19-8-4-16(5-9-19)11-22-24(33)31-26(35)38-22;;/h2-9,13-14,20-22H,10-12,27H2,1H3,(H,28,29)(H,30,32)(H,31,33,35);2*1H
